US04356274
Sodium dimethyl dithiocarbamate (75.2 g, 0.66 mole) is dissolved in 100 ml H2O. A ZnCl2 solution (45.4 g, 0.33 mole dissolved in 300 ml H2O) is added to the sodium dimethyl dithiocarbamate solution. Immediately, a white precipitate forms which is filtered and dried to give a quantitative yield of zinc dimethyl dithiocarbamate.

reactant | Sodium dimethyl dithiocarbamate | 0.66 mole, 75.2 g | CN(C)C(=S)[S-].[Na+]
reactant | ZnCl2 | 0.33 mole, 300 ml, 45.4 g | [Cl-].[Cl-].[Zn+2]
solvent | H2O | 100 ml | O | H2O
product | zinc dimethyl dithiocarbamate | quantitative yield | CN(C)C(=S)[S-].CN(C)C(=S)[S-].[Zn+2] | InChI=1S/2C3H7NS2.Zn/c2*1-4(2)3(5)6;/h2*1-2H3,(H,5,6);/q;;+2/p-2
